US05726177
2-(5-bromo-1H-indol-3-yl)-N-(tert-butoxycarbonyl)ethylamine
5-Bromotryptamine (43 g, 180 mmol), in solution in tetrahydrofuran (500 ml) in the presence of sodium hydroxide solution (2N) (260 ml), is treated with di-tert-butyl dicarbonate (60 g, 275 mmol) at room temperature.

reactant | 5-Bromotryptamine | 180 mmol, 43 g | BrC1=CC=C2NC=C(CCN)C2=C1 | C10H11BrN2
reactant | sodium hydroxide | 2N, 260 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 275 mmol, 60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-(5-bromo-1H-indol-3-yl)-N-(tert-butoxycarbonyl)ethylamine | BrC=1C=C2C(=CNC2=CC1)C(CN)C(=O)OC(C)(C)C | C15H19BrN2O2
